* sg13g2_IOPadIOVss
.subckt sg13g2_IOPadIOVss vss vdd iovss iovdd
Xdcndiode iovss iovss iovdd sg13g2_DCNDiode
Xdcpdiode iovss iovdd iovss sg13g2_DCPDiode
.ends sg13g2_IOPadIOVss

